### PR TITLE
Add two ideal completion lemmas

### PR DESCRIPTION
**Pull request by co-dan**
There should be a better name for `rounded_ideal_supremum`

### CODE REVIEW

File: UniMath/OrderTheory/DCPOs/Examples/IdealCompletion.v [hunk 1]
```diff
@@ -413,6 +423,16 @@ Section RoundedIdealCompletion.
     induction b as [ b [ p₁ p₂ ]].
     exact (hinhpr ((b ,, p₂) ,, p₁)).
   Qed.
+  Proposition rounded_ideal_supremum_2
```
Comment (nmvdw) [inline UniMath/OrderTheory/DCPOs/Examples/IdealCompletion.v:426]: Can you add a new line between the `Qed` and this proposition? Also, looking at this proposition and the previous one, then it might be better to add `⨆ below_ideal_directed_set I = I` (which follows by anti-symmetry). A better name might be using `lub` instead of `supremum`.

**Review by nmvdw — APPROVED** [review]

File: UniMath/OrderTheory/DCPOs/Examples/IdealCompletion.v (hunk 1 above)
Comment (co-dan) [reply UniMath/OrderTheory/DCPOs/Examples/IdealCompletion.v]: i tweaked it a little bitt

File: UniMath/OrderTheory/DCPOs/Examples/IdealCompletion.v [hunk 2]
```diff
@@ -414,6 +435,40 @@ Section RoundedIdealCompletion.
...
+  Proposition rounded_ideal_lub
+              (I : rounded_ideal_completion)
+    : I = ⨆ below_ideal_directed_set I.
+  Proof.
+    apply antisymm_dcpo.
+    - apply rounded_ideal_lub_1.
+    - apply rounded_ideal_lub_2.
+  Qed.
+
+  Proposition from_way_below_ideal_completion
```
Comment (nmvdw) [inline UniMath/OrderTheory/DCPOs/Examples/IdealCompletion.v:447]: Do you know whether this statement is actually an equivalence? Or is the implication just in 1 direction?

Comment (co-dan) [reply UniMath/OrderTheory/DCPOs/Examples/IdealCompletion.v:447]: For the other direction I managed to prove the following:
```
  Proposition to_way_below_ideal_completion
    {I J : rounded_ideal_completion}
    (b₀ b₁ : B)
    (Hb0 : b₀ ∈ I)
    (Hb1 : b₁ ∈ J)
    (Hb : principal_ideal b₀ ≪ principal_ideal b₁)
    (HI : I ≤ principal_ideal b₀)
    : I ≪ J.
```
Maybe there is a way of making it simpler

**Comment by co-dan** [comment]
I have updated the code to prove the following characterization of way-below for the rounded ideal completion:
```
I << J <-> ∃ b₁, b₁ ∈ J ∧ I ≤ principal_ideal b₁.
```

**Comment by nmvdw** [comment]
Can you point me to the statement? I don't see it in changes

**Comment by co-dan** [comment]
> Can you point me to the statement? I don't see it in changes

I added it now : https://github.com/UniMath/UniMath/pull/1738/files#diff-e8c61d88d445709c443e176a33a808d2ec4d1b0cc2692f53376f138da3fc7853R491

**Review by benediktahrens — APPROVED** [review]
